US05883094
1-(5-Bromo pyrid-2-yl) piperazine
A mixture of 5.0 g of 1-t-butoxycarbonyl piperazine, 6.36 gm of 2,5-dibromopyridine and 10.4 gm diisopropylethylamine in 50 ml of 1-methyl-2-pyrolidinone is kept for 12 hours at 150° C. Upon cooling to ambient temperature and addition of 10 ml water, the mixture is acidified with concentrated hydrochloric acid heated for 15 minutes and upon cooling extracted 2×5 ml ethyl ether. The aqueous layer is then neutralized with aqueous ammonium hydroxide solution and extracted with ethyl acetate. The ethyl acetate extract is collected, washed with 20 ml water and dried over Na2SO4. The crude product (4.3 gm) obtained after removing the solvents solidifies upon standing. This material is used without further purification.

reactant | 1-t-butoxycarbonyl piperazine | 5.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2,5-dibromopyridine | 6.36 gm | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | diisopropylethylamine | 10.4 gm | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
solvent | 1-methyl-2-pyrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 ml | O | H2O
product | 1-(5-Bromo pyrid-2-yl) piperazine | 4.3 gm | BrC=1C=CC(=NC1)N1CCNCC1 | C9H12BrN3
